US06143773
Step 2: 6,6-Dimethyl-5-hydroxymethylene-3-methylthio-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
To a solution of sodium hydride (108 mg of a 60% dispersion in mineral oil, 2.7 mmol) and ethyl formate (0.55 mL, 6.8 mmol) at 0C in THF (5 mL) was added a solution of 6,6-dimethyl-3-methylthio-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one (205 mg, 0.68 mmol) in THF (5 mL). The mixture was stirred at room temperature for 2 h then more sodium hydride (50 mg of a 60% dispersion in mineral oil, 1.3 mmol) and ethyl formate (0.55 mL, 6.8 mmol) were added. The mixture was stirred for a further 2 h before MeOH (0.2 mL) was added and the mixture evaporated in vacuo. The residue was dissolved in water (20 mL) and the undissolved solid filtered off. The mixture was acidified to pH 1 using 1M HCl then neutralised with Na2CO3. The mixture was partitioned between EtOAc (20 mL) and water (10 mL) and the organic layer separated and dried (MgSO4). The solvent was evaporated and the residue triturated with ether to afford the title compound (90 mg, 40%) as a yellow solid. 1H NMR (250 MHz, CDCl3) δ1.21 (6H, s), 2.70 (3H, s), 2.93 (2H, s), 7.16-7.22 (1H, m), 7.4.3 (1H, d, J=8.0 Hz), 7.57 (1H, d, J=10.4 Hz), 7.74 (1H, d of t, J=7.7 and 1.8 Hz), 8.62-8.65 (1H, m), 14.68 (1H, d, J=10.4 Hz). MS (ES+) 332 (M+1).

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl formate | 6.8 mmol, 0.55 mL | C(=O)OCC | C3H6O2
reactant | 6,6-dimethyl-3-methylthio-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 0.68 mmol, 205 mg | CC1(CC(C=2C(=C(SC2SC)C2=NC=CC=C2)C1)=O)C | C16H17NOS2
reactant | ethyl formate | 6.8 mmol, 0.55 mL | C(=O)OCC | C3H6O2
reactant | MeOH | 0.2 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6,6-Dimethyl-5-hydroxymethylene-3-methylthio-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 90 mg, 40% | CC1(C(C(C=2C(=C(SC2SC)C2=NC=CC=C2)C1)=O)=CO)C | C17H17NO2S2
